US06627645B2
n-BuLi in heptanes (0.75 ml, 1.2 mmol, 1.6M) was added drop wise to benzo[b]thiophene (134 mg, 1.0 mmol) in THF (4 ml) at −5° C. under argon. The reaction mixture was stirred at −5° C. for 15 min, then 1-chloro-3-iodopropane (151 μl, 1.2 mmol) and copper (1) iodide (19 mg, 0.1 mmol) were added. The reaction was stirred at −5° C. for 1 h, then at room temperature for 0.5 h. Water (5 ml) was added, the product was extracted with diethyl ether (2×10 ml) and the organic layer was dried (K2CO3), filtered and concentrated in vacuo. The product was purified by column chromatography (0-2% ethyl acetate in heptanes) to give 2-(3-chloro-propyl)-benzo[b]thiophene (93 mg, 44%). 1H NMR (CDCl3): δ2.22 (tt, 2H), 3.10 (dt, 2H), 3.61 (t, 2H), 7.06 (m, 1H), 7.30 (m, 2H), 7.69 (m, 1H), 7.78 (m, 1H). 2-(3-Chloro-propyl)-benzo[b]thiophene (53 mg, 0.25 mmol), 4-butylpiperidine (36 mg, 0.25 mmol), sodium iodide (75 mg, 0.5 mmol) and sodium carbonate (53 mg, 0.5 mmol) in acetonitrile (2 ml) were shaken at 80° C. for 18 h, then the reaction was cooled to room temperature. Water (5 ml) was added and the product was extracted with ethyl acetate (2×10 ml), dried (K2CO3), filtered and concentrated in vacuo. The product was purified by column chromatography (0-15% ethyl acetate in heptanes +0.1% Et3N) to yield the title compound 54. Yield 29 mg (37%). The hydrochloride salt was formed by addition of HCl (4M in dioxane) and recrystallised from methanol-diethyl ether to give a white precipitate that was filtered and dried. 1H NMR (CD3OD): δ0.91 (t, 3H), 1.32 (m, 6H), 1.39 (m, 2H), 1.55 (m, 1H), 1.96 (br. d, 2H), 2.19 (tt, 2H), 2.93 (m, 2H), 3.04 (t, 2H), 3.14 (m, 2H), 3.53 (m, 2H), 7.14 (br. s, 1H), 7.26 (m, 1H), 7.31 (m, 1H), 7.68 (m, 1H), 7.77 (m, 1H).

reactant | n-BuLi | [Li]CCCC
reactant | benzo[b]thiophene | 1.0 mmol, 134 mg | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | 1-chloro-3-iodopropane | 1.2 mmol, 151 μl | ClCCCI | C3H6ClI
reactant | Water | 5 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | copper (1) iodide | 0.1 mmol, 19 mg | [Cu]I
product | 2-(3-chloro-propyl)-benzo[b]thiophene | 93 mg, 44% | ClCCCC1=CC2=C(S1)C=CC=C2 | C11H11ClS
